US07087273B2
Into a 2 L egg plant type flask were charged 46.3 g (0.40 mol) of 3-hydroxymethyl-3-ethyloxetane (product name: OXT-101 manufactured by Toagosei Co., Ltd.), 250.3 g (1.16 mol) of 1,4-dibromobutane (reagent, manufactured by Tokyo Kasei Kogyo Co., Ltd.), and 275 ml of hexane. 500 ml of a 33% sodium hydroxide aqueous solution containing 2 g of tetra-n-butylammonium bromide (reagent, manufactured by Tokyo Kasei Kogyo Co., Ltd.) was added to the mixture and vigorously stirred for 5 hours. After the mixture was refluxed at a temperature of 80° C. for one hour, 500 ml of deionized water was added thereto so as to separate the mixture into an organic phase and an aqueous phase. The aqueous phase was extracted three times with 160 ml of hexane. After the organic phase and the extracted phase were dried over magnesium sulfate, the solvent was distilled out in a vacuum. The resulting transparent liquid was distilled in a vacuum thereby obtaining 44.5 g (0.18 mol) of 3-[(4-bromobutoxy)methyl]-3-ethyloxetane as a distillate at 109° C./532 Pa (yield: 44%, identified with 1H-NMR).

reactant | 3-hydroxymethyl-3-ethyloxetane | 0.40 mol, 46.3 g | OCC1(COC1)CC | C6H12O2
reactant | 1,4-dibromobutane | 1.16 mol, 250.3 g | BrCCCCBr | C4H8Br2
reactant | hexane | 275 ml | CCCCCC | C6H14
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetra-n-butylammonium bromide | 2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 500 ml | O | H2O
product | 3-[(4-bromobutoxy)methyl]-3-ethyloxetane | 0.18 mol, 44.5 g, yield: 44% | BrCCCCOCC1(COC1)CC | C10H19BrO2
